US07521446B2
Methyl (4S)-5-azido-4-[(tert-butoxy)carbonylamino]pentanoate
Methyl (4S)-4-[(tert-butoxy)carbonylamino]-5-[(4-methylphenyl) sulfonyloxy]pentanoate (4.93 mmol, 1.98 g) was dissolved in DMF (15 mL) and sodium azide (14.8 mmol, 0.961 g) were added. The reaction was heated at 50° C. for 3 hours. The reaction mixture was filtered and the solvent was removed in vacuo. The crude was purified by flash chromatography (SiO2, ethyl acetate) to yield the title compound (1.07 g, 80% yield). ES-MS: 273 (M+1).

reactant | Methyl (4S)-4-[(tert-butoxy)carbonylamino]-5-[(4-methylphenyl) sulfonyloxy]pentanoate | 4.93 mmol, 1.98 g | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)OC)COS(=O)(=O)C1=CC=C(C=C1)C | C18H27NO7S
reactant | sodium azide | 14.8 mmol, 0.961 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | Methyl (4S)-5-azido-4-[(tert-butoxy)carbonylamino]pentanoate | 1.07 g, 80% yield | N(=[N+]=[N-])C[C@H](CCC(=O)OC)NC(=O)OC(C)(C)C | C11H20N4O4
